US06642227B2
4-cyclohexyl-5-{2-(3-(2-diethylamino-ethylamino)-phenylamino)-5-methyl-pyrimidin-4-yl}2-methylsulfanyl-thiophene-3-carbonitrile (VI-26)
To a solution of 5-[2-(3-aminophenylamino)-5-methyl-pyrimidin-4-yl]-4-cyclohexyl-2-methylsulfanyl-thiophene-3-carbonitrile (20 mg, 45.91 micromol) and N,N-diethyl-2-amino-bromoethane.HBr (12 mg, 45.91 micromol) in THF was added sodium t-butoxide (9 mg, 91.82 micromol) and the eaction was stirred at ambient temperature overnight. TLC indicated conversion to product (10% MeOH:CH2Cl2). The reaction was partitioned between EtOAc and water, the organics were dried over sodium sulfate then concentrated in vacuo. The crude product was purified by chromatography (silica gel, 5% MeOH:CH2Cl2) to afford VI-26 in 33% yield. δ0.95 (bs, 6H), 1.0-1.8 (m, 10H), 2.0 (s, 3H), 2.6 (s, 3H), 2.75 (bs, 2H), 3.4 (s, 1H), 3.6 (bs, 2H), 4.0 (bs, 2H), 5.2 (s, 1H), 6.5 (d, 1H), 6.55 (s, 1H) , 6.6 (d, 1H) , 7.0 (t, 1H) , 8.1 (s, 1H).

reactant | 5-[2-(3-aminophenylamino)-5-methyl-pyrimidin-4-yl]-4-cyclohexyl-2-methylsulfanyl-thiophene-3-carbonitrile | 45.91 micromol, 20 mg | NC=1C=C(C=CC1)NC1=NC=C(C(=N1)C1=C(C(=C(S1)SC)C#N)C1CCCCC1)C | C23H25N5S2
reactant | N,N-diethyl-2-amino-bromoethane | C(C)N(CCBr)CC | C6H14BrN
reactant | HBr | 45.91 micromol, 12 mg | Br | BrH
reactant | sodium t-butoxide | 91.82 micromol, 9 mg | CC(C)([O-])C.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 4-cyclohexyl-5-{2-(3-(2-diethylamino-ethylamino)-phenylamino)-5-methyl-pyrimidin-4-yl}2-methylsulfanyl-thiophene-3-carbonitrile | 33% yield | C1(CCCCC1)C=1C(=C(SC1C1=NC(=NC=C1C)NC1=CC(=CC=C1)NCCN(CC)CC)SC)C#N | C29H38N6S2
